US05276025
Step F: Preparation of 5(R,S)-methyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepine-1,1-dioxide hydrochloride
A suspension of 4-isobutyryl-5(R,S)-methyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepine-1,1-dioxide (500 mg, 1.5 mmol) in water (8 mL) and concentrated HCl (4 mL) containing ethanol (3 mL) was warmed at 100° C. for 2 days. The cooled solution was made weakly basic with NaHCO3 and the product was extracted into ethyl acetate. The extract was dried (Na2SO4), filtered through a pad of charcoal and the solvent evaporated. Trituration of this residue afforded 361 mg (80%) of title compound, mp 236°-238° C. dec.

reactant | 4-isobutyryl-5(R,S)-methyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepine-1,1-dioxide | 1.5 mmol, 500 mg | C(C(C)C)(=O)N1CCS(C2=C(C1C)C=C(S2)S(N)(=O)=O)(=O)=O | C12H18N2O5S3
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | HCl | 4 mL | Cl | ClH
solvent | water | 8 mL | O | H2O
product | 5(R,S)-methyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepine-1,1-dioxide hydrochloride | 361 mg, 80% | Cl.CC1NCCS(C2=C1C=C(S2)S(N)(=O)=O)(=O)=O | InChI=1S/C8H12N2O4S3.ClH/c1-5-6-4-7(17(9,13)14)15-8(6)16(11,12)3-2-10-5;/h4-5,10H,2-3H2,1H3,(H2,9,13,14);1H
